US04555517
Isopropyl ethoxymethyleneacetoacetate (3)
From isopropyl acetoacetate (28.8 g, 0.20 mol) which can be made by the process described by Lawesson et al., Organic Synthesis, Coll. Vol. V, 155-157 (1973), triethyl orthoformate (29.6 g, 0.20 mol) and acetic anhydride (41 g, 0.40 mol): 14.3 g, 35.7%; bp=85°-90° C. at 0.20 mm Hg; NMR (CDCl3) δ 1.3-1.6 (m, 9H), 2.3-2.6 (d, 3H), 4.1-4.5 (m, 2H), 5.0-5.4 (m, 1H), 7.6-7.8 (d, 1H).

reactant | isopropyl acetoacetate | 0.20 mol, 28.8 g | C(CC(=O)C)(=O)OC(C)C | C7H12O3
reactant | triethyl orthoformate | 0.20 mol, 29.6 g | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | 0.40 mol, 41 g | C(C)(=O)OC(C)=O | C4H6O3
product | Isopropyl ethoxymethyleneacetoacetate | C(C)OC=CC(CC(=O)OC(C)C)=O | C10H16O4
